US08022062B2
Use a method similar to the General Procedure 3 to couple 7-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1 g, 2.4 mmol) with 3,3-dimethyl-1-butyne (0.599 mL, 4.9 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1) to give 6-(3,3-dimethyl-but-1-ynyl)-7-fluoro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (700 mg, 84%).

reactant | 7-fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.4 mmol, 1 g | FC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10F7NO4S
reactant | 3,3-dimethyl-1-butyne | 4.9 mmol, 0.599 mL | CC(C#C)(C)C | C6H10
product | 6-(3,3-dimethyl-but-1-ynyl)-7-fluoro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 700 mg, 84% | CC(C#CC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)F)(C)C | C18H19F4NO
